data/mechanisms/records/IMS9-EQ9.7.json
{"mechanism_id": "IMS9-EQ9.7", "species": [{"species_id": "methylcyclohexane_molecular_ion", "mapped_smiles": "[CH3:7][CH:1]1[CH2:2][CH2:3][CH2:4][CH2:5][CH2:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "ring_opened_distonic_ion", "mapped_smiles": "[CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH+:1][CH3:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethylene", "mapped_smiles": "[CH2:2]=[CH2:3]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "c5h10_distonic_ion_mz70", "mapped_smiles": "[CH2:4][CH2:5][CH2:6][CH+:1][CH3:7]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["methylcyclohexane_molecular_ion"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["ethylene", "c5h10_distonic_ion_mz70"]}], "steps": [{"step_id": "step_sigma_ionization", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "sigma_ionization", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "external", "atom_maps": []}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_cleavage", "from_state": "state_ring_opened", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_sigma_ionization", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_sigma_ionization", "support_type": "textbook_proposed", "locator": {"page": 233, "equation": "9.7", "figure": "9.2", "panel": null, "section": "9.1"}, "confidence": 0.85, "curator_note": "Eq 9.7, first arrow. Book draws 0 arc(s) for this step; the straight reaction arrow carries only the labels '-e-' (above) and 'sigma' (below), so both encoded moves <1,2> are the implied one-electron sigma ionization, not drawn fishhooks. The text on this page states the rationalization verbatim: 'The (M - C2H4)+. peak of methylcyclohexane can be rationalized on the basis of initial ionization at the endocyclic branched sigma bond (Equation 9.7)'. The atom the book puts the + on is the methyl-bearing (branched) ring carbon, map 1, and the odd electron ends on the adjacent ring carbon, map 2 - I read the drawn intermediate at native resolution to confirm the ring gap is exactly the C1-C2 bond, the '+' sits immediately left of the methyl-bearing vertex, and the dot sits on the neighbouring top vertex. Encoding convention: the precursor SMILES is the closed, neutral methylcyclohexane skeleton (charge/radical carried in the species fields, as for the delocalized sigma radical cation of eqs 4.3/4.5/4.8), so the ionization hole is booked to an 'external' electron location; this is an accounting device for the electron the neutral-looking SMILES cannot show, not a claim that charge changes during this step."}, {"evidence_id": "ev_step_alpha_cleavage", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 233, "equation": "9.7", "figure": "9.2", "panel": null, "section": "9.1"}, "confidence": 0.85, "curator_note": "Eq 9.7, second arrow (labelled 'alpha'). Book draws 2 arc(s); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 starts at the radical dot on ring carbon 2 and its single barb points onto the C2-C3 bond (the forming pi bond); drawn arc 2 starts on the C3-C4 ring bond and its single barb points onto the same C2-C3 bond. The third electron of that homolysis (C3-C4 -> atom 4) is not drawn: the book simply writes the product with the dot on the new terminal CH2. Product regiochemistry read off the page: the neutral loss is drawn as a bare C=C (ethylene, maps 2 and 3) and the ion is drawn as a five-carbon chain .CH2-CH2-CH2-CH(+)-CH3 carrying BOTH a dot (on the terminal CH2, map 4) and a '+' (on the methyl-bearing carbon, map 1), i.e. an odd-electron distonic ion - consistent with the text calling it the '(M - C2H4)+.' peak. Isotopic labelling is quoted on the page as indicating that 60% of that peak arises from elimination of C2H4 originating in this position; that is a labelling provenance figure, NOT a peak intensity."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 98.109, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_mz70", "species_id": "c5h10_distonic_ion_mz70", "step_id": "step_alpha_cleavage", "observed_mz": 70.0777, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}, {"peak_id": "peak_mz98_molecular_ion", "species_id": "methylcyclohexane_molecular_ion", "step_id": null, "observed_mz": 98.109, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-30T00:00:00Z", "modified_at": "2026-07-30T00:00:00Z"}}
